datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][O+:10](C(C)C(C)C(C)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(C)C(C)C(C)[NH][C:20]([NH]C7=CC=CC=C7)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"[H][S:10]C([H])C(C)C(C)[O][C:20]([S]C7=CC=CC=C7)=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C([H])C(C)C(C)[O]1)[C:20]1([O:21]C)[S]C7=CC=CC=C7 10=20;20,21=21"
"[H][O+:10]([H])[C:20]([O:21][H])([S]C8=CC=CC=C8)[O]CC.[Cl-]>>[Cl-].[H][O:10][H].[H][O+:21]=[C:20]([S]C8=CC=CC=C8)[O]CC 21=20;20,10=10"
"C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH](C)[CH](C)C(C)[O]2.[H][NH:10][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH](C)C(C)[CH](C)[O]1 10=20;20,21=21"
"C1=CC=CC=C1C1C(C(O[C:20](N1C)([O-:10])[O:21][H])CC)CCCCCC>>C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1C)CC)CCCCCC.[O-:21][H] 10=20;20,21=21"
"C[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH](C)C(CC)[NH]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]C)[NH][CH](C7=CC=CC=C7)C(C)[CH](CC)[NH]1 10=20;20,21=21"
"[H][S:10]C(C)C(C)[S][C:20]([S]C7=CC=CC=C7)=[O+:21][Si](C)(C)(C).[Cl-]>>[Cl-].[H][S+:10](C(C)C(C)[S]1)[C:20]1([O:21][Si](C)(C)(C))[S]C7=CC=CC=C7 10=20;20,21=21"
"CC[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH]([H])C([H])[CH]([H])[NH]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH]([H])[CH]([H])C([H])[NH]2.CC[O:10][H] 21=20;20,10=10"
"[H][NH+:10]([H])[C:20]1([NH:21]CC)[NH][CH](CC)C([H])[CH](CC)[O]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH][CH](CC)[CH]([H])C(CC)[O]2.[H][NH:10][H] 21=20;20,10=10"
"CCCCCCC1C(C(O[C:20](=[O:10])N1CC)C1=CC=CC=C1)C.[O-:21]C>>CCCCCCC1C(C(O[C:20](N1CC)([O-:10])[O:21]C)C1=CC=CC=C1)C 21=20;20,10=10"
"[H][O+:10](C(C9=CC=CC=C9)C([H])[S]1)[C:20]1([O:21][H])[S]C.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C([H])[S][C:20]([S]C)=[O+:21][H] 21=20;20,10=10"
"[H][S:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([S][H])[O][H].[Cl-]>>[Cl-].[H][S+:10]([H])[C:20]([O:21][Si](C)(C)(C))([S][H])[O][H] 10=20;20,21=21"
"[O-:21][C:20]1(OC)C(O)C(C)C(C)C([H])[O+:10]1([K])>>[O:10]([K])C([H])C(C)C(C)C(O)[C:20](OC)=[O:21] 21=20;20,10=10"
"C1(C([O:21][C:20](O1)([O-:10])OCCCCCC)[H])[H]>>C(C(O[C:20](=[O:10])OCCCCCC)[H])([O-:21])[H] 10=20;20,21=21"
"[H][NH+:10](C(C)C([H])C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]C)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][NH:10]C(C)C([H])C(C8=CC=CC=C8)[NH][C:20]([O]C7=CC=CC=C7)=[NH+:21]C 21=20;20,10=10"
"CN([C:20](=[O:10])OC)C.[O-:21]CC>>CN([C:20]([O-:10])(OC)[O:21]CC)C 21=20;20,10=10"
"CCN([C:20]([O-:10])(OC)[O:21][H])C>>CCN([C:20](=[O:10])OC)C.[O-:21][H] 10=20;20,21=21"
"C[O+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH]([H])C([H])[S]2.CC[S:10][H].[Cl-]>>[Cl-].CC[S+:10]([H])[C:20]1([O:21]C)[O][CH](C7=CC=CC=C7)C([H])[CH]([H])[S]1 10=20;20,21=21"
"[O-:21][C:20]1(OCC)C([H])C([H])=C([H])C(CCC)[O+:10]1([K])>>[O:10]([K])C(CCC)/C([H])=C([H])\C([H])[C:20](OCC)=[O:21] 21=20;20,10=10"
"CCN([C:20]1(OC(C(C([O:21]1)[H])CCCCCC)CCCCCC)[O-:10])C1=CC=CC=C1>>CCN([C:20](=[O:10])OC(C(C([O-:21])[H])CCCCCC)CCCCCC)C1=CC=CC=C1 10=20;20,21=21"
"C1=CC=CC=C1C1C(C(O[C:20](N1C)([O-:10])[O:21][H])C1=CC=CC=C1)C>>C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1C)C1=CC=CC=C1)C.[O-:21][H] 10=20;20,21=21"
"[H][O+:10]([H])[C:20]1([O:21][H])[S]C(CC)C([H])[O]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[S]C(CC)C([H])[O]2.[H][O:10][H] 21=20;20,10=10"
"C[S:10][H].C[O+:21]=[C:20]([S]CC)[S]C.[Cl-]>>[Cl-].C[S+:10]([H])[C:20]([O:21]C)([S]CC)[S]C 10=20;20,21=21"
"[O-:21][C:20]1(C)C([H])C(O)C(C)C(CC)[O+:10]1([Na])>>[O:10]([Na])C(CC)C(C)C(O)C([H])[C:20](C)=[O:21] 21=20;20,10=10"
"[O:10]([Na])C(C)C([H])C([H])C(C)[C:20](OC)=[O:21]>>[O-:21][C:20]1(OC)C(C)C([H])C([H])C(C)[O+:10]1([Na]) 10=20;20,21=21"
"[H][S+:10](C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([O:21][H])[S]C.[Cl-]>>[Cl-].[H][S:10]C(C)C(C8=CC=CC=C8)[O][C:20]([S]C)=[O+:21][H] 21=20;20,10=10"
"C6=CC=CC=C6[NH+:21]=[C:20]2[NH]C(CC)C(C)[NH]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH]C(CC)C(C)[NH]1 10=20;20,21=21"
"[H][O:10]C(CC)C([H])C(C8=CC=CC=C8)[O][C:20]([S]CC)=[O+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(CC)C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([O:21]C)[S]CC 10=20;20,21=21"
"[O-:21][C:20]1(OCC)[O+:10]([Na])C(C)C(C)=C1O>>[O:10]([Na])C(C)/C(C)=C([C:20](OCC)=[O:21])/O 21=20;20,10=10"
"[H][NH+:10](C([H])C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]C)[O]C.[Cl-]>>[Cl-].[H][NH:10]C([H])C(C8=CC=CC=C8)[NH][C:20]([O]C)=[NH+:21]C 21=20;20,10=10"
"CN([C:20]1(OC(C(C([O:21]1)[H])CC)CCCCCC)[O-:10])C>>CN([C:20](=[O:10])OC(C(C([O-:21])[H])CC)CCCCCC)C 10=20;20,21=21"
"C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1[H])C1=CC=CC=C1)CC.[O-:21]CC>>C1=CC=CC=C1C1C(C(O[C:20](N1[H])([O-:10])[O:21]CC)C1=CC=CC=C1)CC 21=20;20,10=10"
"CCC1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)C1=CC=CC=C1)C.[O-:21]C1=CC=CC=C1>>CCC1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]C1=CC=CC=C1)C1=CC=CC=C1)C 21=20;20,10=10"
"[OH:21][C:20]1(OC)[OH+:10]C(CCC)C(O)=C1O>>[OH:10]C(CCC)/C(O)=C([C:20](OC)=[OH+:21])/O 21=20;20,10=10"
"[H][O+:10](C(C)C(C)C(CC)[NH]1)[C:20]1([NH:21][H])[O][H].[Cl-]>>[Cl-].[H][O:10]C(C)C(C)C(CC)[NH][C:20]([O][H])=[NH+:21][H] 21=20;20,10=10"
